US07875728B2
Preparation of 5-aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine
A solution of 3-fluoroaniline (1.67 g, 15 mmole) in 17 mL of water, acidified with 3.75 mL of conc. HCl (45 mmole) in an ice bath, was treated with NaNO2 (1.35 g, 19.5 mmole). The diazonium solution was then added to the solution of 4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-3-oxobutyronitrile (2.28 g, 10 mmole) with NaOAc (6.12 g, 45 mmole) in DMF/water mixture (30:35 mL). From this reaction, 3.4 g of 2-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}isoindole-1,3-dione, as a yellow powder, was obtained, which was then treated with hydrazine (22 mmole) portionwise in hot ethanol. After the reaction was completed, a few grams of silica gel was mixed and the solvent was evaporated. The powdery residue was purified by column chromatography (CH2Cl2:MeOH:NH3.H2O=600:150:6) to yield 1.5 g (61%) of the title compound as an orange powder. 1H NMR (ppm, 200 MHz, DMSO-d6) δ 7.40-7.70 (m, 3H), 7.12 (m, 1H), 7.00 (br s, 2H), 4.01 (s, 2H).

reactant | 3-fluoroaniline | 15 mmole, 1.67 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | HCl | 45 mmole, 3.75 mL | Cl | ClH
reactant | NaNO2 | 19.5 mmole, 1.35 g | N(=O)[O-].[Na+]
reactant | 4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-3-oxobutyronitrile | 10 mmole, 2.28 g | O=C1N(C(C2=CC=CC=C12)=O)CC(CC#N)=O | C12H8N2O3
reactant | NaOAc | 45 mmole, 6.12 g | CC(=O)[O-].[Na+]
reactant | 2-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}isoindole-1,3-dione | 3.4 g | NC=1C(C(=NN1)CN1C(C2=CC=CC=C2C1=O)=O)=NNC1=CC(=CC=C1)F | C18H13FN6O2
reactant | hydrazine | 22 mmole | NN | H4N2
solvent | water | 17 mL | O | H2O
solvent | DMF water | 35 mL | CN(C)C=O.O
solvent | ethanol | C(C)O | C2H6O
product | 5-aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | 1.5 g, 61% | NCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C10H11FN6
